US04118559
To a -78° C. to -100° C. solution of 1.0 mole of dimethyl 3-methoxyisophthalic acid in 5 liters of toluene is slowly added 1.0 mole of diisobutylaluminum hydride as a 1M solution in n-hexane (reaction t ≤ -78° C.). The reaction mixture is stirred for 3 hours following the addition and is then quenched by the addition of 10 moles of anhydrous methanol. The reaction mixture is allowed to warm to room temperature and is stirred until a filterable precipitate forms. The reaction mixture is filtered and the filtrate evaporated. The residue is purified by vacuum distillation to yield 3-methoxyisophthalaldehydic acid methyl ester.

reactant | dimethyl 3-methoxyisophthalic acid | 1.0 mole | CC=1C(C(C(C(=O)O)=CC1)C)(C(=O)O)OC | C11H14O5
reactant | diisobutylaluminum hydride | 1.0 mole | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 10 moles | CO | CH4O
solvent | toluene | 5 liters | C1(=CC=CC=C1)C | C7H8
solvent | n-hexane | CCCCCC | C6H14
product | 3-methoxyisophthalaldehydic acid methyl ester | COC(C=1CC(C=O)(C=CC1)OC)=O | C10H12O4
